US07863291B2
To 2-isothiocyanato-6-methoxy-[1,2,4]triazolo[1,5-a]pyridine (160 mg, 0.78 mmol) in N,N-dimethylformamide (5 ml) was added (S)-3-(aminomethyl)quinuclidin-3-ol, 2HCl (178 mg, 0.78 mmol) and triethylamine (0.32 ml, 2.33 mmol). The reaction was stirred at 70° C. for 1 hour. N,N′-Diisopropylcarbodiimide (0.36 ml, 2.33 mmol) was then added to the reaction mixture. The mixture was heated at 70° C. for 4 hours, then cooled and poured into aqueous sodium bicarbonate/chloroform. The product was extracted (3×) with chloroform. The combined organics were washed with water (3×), dried over sodium sulfate, filtered, and concentrated in vacuo, then purified via flash chromatography (2-20% [10% ammonium hydroxide:methanol]/chloroform) to yield (R)—N-(6-methoxy-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-4H-1′-azaspiro-[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (114.5 mg, 0.33 mmol, 42% yield) as a white powder. 1H NMR (500 MHz, CDCl3) δ ppm 8.51 (1 H, br. s.), 8.08 (1 H, d, J=2.44 Hz), 7.35 (1 H, d, J=9.77 Hz), 7.18 (1 H, dd, J=9.46, 2.44 Hz), 3.92 (1 H, d, J=8.85 Hz), 3.84 (3 H, s), 3.58 (1 H, d, J=8.85 Hz), 3.36-3.41 (1 H, m), 2.72-3.05 (4 H, m), 2.18-2.26 (1 H, m, J=13.26, 9.98, 3.66, 3.49, 3.49 Hz), 2.13 (1 H, br. s.), 1.79 (1 H, br. s.), 1.67-1.76 (1 H, m, J=13.96, 9.84, 4.27, 4.27 Hz), 1.45-1.63 (2 H, m). MS (LC/MS) R.T.=0.86; [M+H]+=329.2.

reactant | 2-isothiocyanato-6-methoxy-[1,2,4]triazolo[1,5-a]pyridine | 0.78 mmol, 160 mg | N(=C=S)C1=NN2C(C=CC(=C2)OC)=N1 | C8H6N4OS
reactant | triethylamine | 2.33 mmol, 0.32 ml | C(C)N(CC)CC | C6H15N
reactant | N,N′-Diisopropylcarbodiimide | 2.33 mmol, 0.36 ml | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | sodium bicarbonate chloroform | C([O-])(O)=O.[Na+].C(Cl)(Cl)Cl
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (R)—N-(6-methoxy-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-4H-1′-azaspiro-[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 0.33 mmol, 114.5 mg, 42% yield | COC=1C=CC=2N(C1)N=C(N2)NC=2O[C@]1(CN3CCC1CC3)CN2 | C16H20N6O2
